US05468857
Phosphoryl chloride (7.8 ml) was added dropwise to a stirred solution of (E)-methyl 2-[2-(3-formamidophenoxy)phenyl]-3-methoxypropenoate (13.67 g) in methanol (100 ml), the temperature during the addition being kept below 50° C. with the aid of a cooling bath. After stirring for 20 minutes, the reaction mixture was poured into water (500 ml), neutralized with sodium bicarbonate and extracted with ether. The extracts were dried and concentrated to give a yellow oil which was chromatographed using ether as the eluant to give (E)-methyl 2-[2-(3-aminophenoxy)phenyl]-3-methoxypropenoate (8.57 g, 68% yield) as a yellow solid, m.p. 83°-85° C.

reactant | Phosphoryl chloride | 7.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (E)-methyl 2-[2-(3-formamidophenoxy)phenyl]-3-methoxypropenoate | 13.67 g | C(=O)NC=1C=C(OC2=C(C=CC=C2)/C(/C(=O)OC)=C\OC)C=CC1 | C18H17NO5
reactant | water | 500 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | (E)-methyl 2-[2-(3-aminophenoxy)phenyl]-3-methoxypropenoate | 8.57 g, 68% yield | NC=1C=C(OC2=C(C=CC=C2)/C(/C(=O)OC)=C\OC)C=CC1 | C17H17NO4
